US06930208B2
0.853 g (6.20 mmol) of K2CO3, 0.154 g (0.90 mmol) of KI and 1.000 g (3.10 mmol) of ethyl 2,4-dibromo-3-hydroxybenzoate were initially charged in 10 ml of DMF. At RT, 0.621 g (3.70 mmol) of 1-bromo-2-butanone was added, and the mixture was then heated at 80° C. for 4 h. The mixture was then poured into water and extracted with diisopropyl ether. The combined organic phases were washed with water, dried over Na2SO4 and evaporated to dryness. Drying under oil pump vacuum gave ethyl 2,4-dibromo-3-(ethylcarbonylmethoxy)benzoate as a brown oil.

reactant | K2CO3 | 6.20 mmol, 0.853 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2,4-dibromo-3-hydroxybenzoate | 3.10 mmol, 1.000 g | BrC1=C(C(=O)OCC)C=CC(=C1O)Br | C9H8Br2O3
reactant | 1-bromo-2-butanone | 3.70 mmol, 0.621 g | BrCC(CC)=O | C4H7BrO
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 2,4-dibromo-3-(ethylcarbonylmethoxy)benzoate | BrC1=C(C(=O)OCC)C=CC(=C1OCC(=O)CC)Br | C13H14Br2O4
